US07276569B2
4-Chloroacetophenone (15.5 g, 100 mmoles) was dissolved in 100 ml of methanol, and a solution of 5.67 g (150 mmoles) of sodium borohydride in 250 ml of methanol was slowly added to the solution. The resulting solution was stirred overnight at room temperature. To the reaction mixture was added 1 N hydrochloric acid, and the organic layer was extracted with diethyl ether. The organic layer was collected and dried over anhydrous sodium sulfate, followed by concentration to obtain 1-(4-chlorophenyl)ethanol [1H-NMR (300 MHz, CDCl3) 1.48 (d, J=6.3 Hz, 3H), 4.88 (q, J=6.6 Hz, 1H), 7.31 (s, 4H)] in a nearly pure form.

reactant | 4-Chloroacetophenone | 100 mmoles, 15.5 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | sodium borohydride | 150 mmoles, 5.67 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | 1-(4-chlorophenyl)ethanol | ClC1=CC=C(C=C1)C(C)O | C8H9ClO
